US08293735B2
(±)-(trans)-4-Azetidin-1-yl-piperidine-3-carboxylic acid amide
To a solution of 4-azetidin-1-yl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (0.66 g. 2.21 mmol) in anhydrous DMF (13 mL) was added formamide (370 μL, 9.32 mmol). The mixture was heated to 100° C. and a solution of sodium methoxide in MeOH (25 w/w. 330 μL, 1.44 mmol) was added with heating being continued for 2 h. The reaction mixture was cooled to RT, then loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH then eluted with 2 M NH3 in MeOH to give 4-azetidin-1-yl-3-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester. To a solution of 4-azetidin-1-yl-3-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester in DCM (40 mL) was added TFA (5 mL) and the resulting mixture was stirred at RT for 1 h. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH to give a 1:1 cis:trans mixture of the title compound as a colourless oil (280 mg, 69%).

reactant | 4-azetidin-1-yl-3-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1CCC1)C(N)=O | C14H25N3O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (±)-(trans)-4-Azetidin-1-yl-piperidine-3-carboxylic acid amide | 280 mg, 69% | N1(CCC1)[C@H]1[C@@H](CNCC1)C(=O)N | C9H17N3O
